US08703810B2
Step 2: 3-(4-Hydroxyphenyl)-2-(4-iodophenyl)-4-(trifluoromethyl)chroman-4,6-diol
To a solution of {2-(4-iodo-phenyl)-6-(tetrahydro-pyran-2-yloxy)-3-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-4-trifluoromethyl-chroman-4-yloxy}-trimethyl-silane (15 g, 73 mmol) in MeOH (400 mL), concentrated HCl (100 mL) was added. The reaction mixture was stirred at room temperature for 4 h, concentrated, and re-dissolved in DCM (150 mL). The solution was washed (3×100 mL brine), dried (Na2SO4), filtered, and concentrated. The residue was purified by silica gel column chromatography (PE/EA=10/1) to afford the desired product (10 g). 1H NMR (DMSO-d6): δ 9.17 (s, 1H), 9.08 (s, 1H), 7.55 (d, 2H), 7.10 (d, 2H), 7.06-6.99 (m, 3H), 6.76-6.65 (m, 2H), 6.55-6.48 (m, 3H), 5.77 (d, 1H), 3.55 (d, 1H); LCMS: 527 (M−H)−.

reactant | {2-(4-iodo-phenyl)-6-(tetrahydro-pyran-2-yloxy)-3-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-4-trifluoromethyl-chroman-4-yloxy}-trimethyl-silane | 73 mmol, 15 g | IC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1C1=CC=C(C=C1)OC1OCCCC1)(O[Si](C)(C)C)C(F)(F)F)OC1OCCCC1 | C35H40F3IO6Si
solvent | MeOH | 400 mL | CO | CH4O
solvent | HCl | 100 mL | Cl | ClH
product | 3-(4-Hydroxyphenyl)-2-(4-iodophenyl)-4-(trifluoromethyl)chroman-4,6-diol | 10 g | OC1=CC=C(C=C1)C1C(OC2=CC=C(C=C2C1(O)C(F)(F)F)O)C1=CC=C(C=C1)I | C22H16F3IO4
